US08865701B2
Step 3: Benzyl 2-cyclohexyl-4-hydroxy-4-phenylpiperidine-1-carboxylate
Benzyl 2-cyclohexyl-4-oxopiperidine-1-carboxylate in THF (155 ml) was cooled to 0° C. and added phenylmagnesium bromide (22.08 ml, 61.8 mmol). The ice bath was removed and the solution stirred at room temperature for 14 hours. Quenched the reaction with 1N HCl and concentrated. Extracted three times with EtOAc and washed twice with water. The organics were dried, concentrated, and purified on silica gel 30% EtOAc.

reactant | Benzyl 2-cyclohexyl-4-oxopiperidine-1-carboxylate | C1(CCCCC1)C1N(CCC(C1)=O)C(=O)OCC1=CC=CC=C1 | C19H25NO3
reactant | phenylmagnesium bromide | 61.8 mmol, 22.08 ml | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 155 ml | C1CCOC1 | C4H8O
product | Benzyl 2-cyclohexyl-4-hydroxy-4-phenylpiperidine-1-carboxylate | C1(CCCCC1)C1N(CCC(C1)(C1=CC=CC=C1)O)C(=O)OCC1=CC=CC=C1 | C25H31NO3
